### PR TITLE
Refactor of Hellinger and Renyi divergences

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Major changes to the files `Hellinger.lean` and `Renyi.lean`.

In particular:
- Change the definitions of `hellingerFun` and `renyiDiv`
- Fix and expand the API of `hellingerFun`, 
`hellingerDiv`, `condHellingerDiv` and `renyiDiv`
- Add `condRenyiDiv` with some API
- Generalize the hypotheses of some lemmas
- Add comments

### CODE REVIEW

**Comment by RemyDegenne** [comment]
The build failed.

File: TestingLowerBounds/Hellinger.lean [hunk 1]
```diff
@@ -3,9 +3,11 @@ Copyright (c) 2024 Rémy Degenne. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Rémy Degenne, Lorenzo Luccioli
 -/
-import TestingLowerBounds.FDiv.Basic
-import TestingLowerBounds.FDiv.CondFDiv
+-- theorem foo (n : Nat) : 0 ≤ n := by exact? -- trick to make exact? work TODO : erase this when we are done
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/Hellinger.lean]:
```suggestion
```

File: TestingLowerBounds/Hellinger.lean [hunk 2]
```diff
@@ -32,6 +34,9 @@ open scoped ENNReal NNReal Topology
 
 namespace ProbabilityTheory
 
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/Hellinger.lean]:
```suggestion
```

File: TestingLowerBounds/Hellinger.lean [hunk 3]
```diff
@@ -100,43 +105,95 @@ lemma integrable_rpow_rnDeriv_iff [SigmaFinite ν] [SigmaFinite μ] (hμν : μ
 
 section HellingerFun
 
-/--Hellinger function, defined as `x ↦ (a - 1)⁻¹ * (x ^ a - 1)` for `a : ℝ`.-/
+-- noncomputable
+-- def hellingerFun (a : ℝ) : ℝ → ℝ := fun x ↦ (a - 1)⁻¹ * (x ^ a - 1)
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/Hellinger.lean]:
```suggestion
```

File: TestingLowerBounds/Hellinger.lean [hunk 4]
```diff
@@ -100,43 +105,95 @@ lemma integrable_rpow_rnDeriv_iff [SigmaFinite ν] [SigmaFinite μ] (hμν : μ
...
+  else fun x ↦ (a - 1)⁻¹ * (x ^ a - 1)
+
+lemma hellingerFun_zero : hellingerFun 0 = fun x ↦ if x = 0 then 1 else 0 := by
+  ext x
+  simp [hellingerFun]
+
+lemma hellingerFun_zero' : hellingerFun 0 = fun x ↦ 0 ^ x := by
+  ext x
+  by_cases h : x = 0
+    <;> simp [hellingerFun, h]
```
Comment (RemyDegenne) [inline TestingLowerBounds/Hellinger.lean]:
```suggestion
  by_cases h : x = 0 <;> simp [hellingerFun, h]
```

File: TestingLowerBounds/Hellinger.lean [hunk 5]
```diff
@@ -100,43 +105,95 @@ lemma integrable_rpow_rnDeriv_iff [SigmaFinite ν] [SigmaFinite μ] (hμν : μ
...
+
+lemma hellingerFun_zero'' : hellingerFun 0 = Set.indicator {0} 1 := by
+  ext x
+  by_cases h : x = 0
+    <;> simp [hellingerFun_zero, h]
```
Comment (RemyDegenne) [inline TestingLowerBounds/Hellinger.lean]:
```suggestion
  by_cases h : x = 0 <;> simp [hellingerFun_zero, h]
```

File: TestingLowerBounds/Hellinger.lean [hunk 6]
```diff
@@ -100,43 +105,95 @@ lemma integrable_rpow_rnDeriv_iff [SigmaFinite ν] [SigmaFinite μ] (hμν : μ
...
 
-lemma hellingerFun_one : hellingerFun 1 = fun x ↦ 0 := by
+lemma hellingerFun_one : hellingerFun 1 = fun x ↦ x * log x := by
   ext x
   simp [hellingerFun]
 
+lemma hellingerFun_ne_zero_ne_one (ha_zero : a ≠ 0) (ha_one : a ≠ 1) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/Hellinger.lean]:
```suggestion
lemma hellingerFun_of_ne_zero_of_ne_one (ha_zero : a ≠ 0) (ha_one : a ≠ 1) :
```
Otherwise it looks like you are proving that the function is non-zero and not one.

File: TestingLowerBounds/Hellinger.lean [hunk 7]
```diff
@@ -459,77 +674,293 @@ lemma condHellingerDiv_of_not_integrable
...
+  rw [condHellingerDiv_eq_integral_iff_of_lt_one ha_pos ha |>.mpr h_int']
+  norm_cast
+  calc
+    _ = ∫ x, ((a - 1)⁻¹ * ∫ b, ((∂κ x/∂η x) b).toReal ^ a ∂η x
+        - (a - 1)⁻¹ * ((η x) Set.univ).toEReal).toReal ∂μ := by
+      apply integral_congr_ae
+      filter_upwards with x
+      congr
+      exact hellingerDiv_eq_integral_of_lt_one' ha_pos ha _ _
+    _ = ∫ x, ((a - 1)⁻¹ * ∫ b, ((∂κ x/∂η x) b).toReal ^ a ∂η x --from here to the end the proof is the same as the one of `condHellingerDiv_eq_integral'_of_one_lt`, consider separating this part as a lemma
```
Comment (RemyDegenne) [inline TestingLowerBounds/Hellinger.lean]: Line length.

File: TestingLowerBounds/Renyi.lean [hunk 8]
```diff
@@ -53,152 +53,165 @@ lemma exp_mul_llr' [SigmaFinite μ] [SigmaFinite ν] (hμν : μ ≪ ν) :
 
 /-- Rényi divergence of order `a`.-/
 noncomputable def renyiDiv (a : ℝ) (μ ν : Measure α) : EReal :=
-  if a = 0 then - log (ν {x | 0 < (∂μ/∂ν) x}).toReal
-  else if a = 1 then kl μ ν
+  if a = 1 then kl μ ν
   else if hellingerDiv a μ ν ≠ ⊤
-    then (a - 1)⁻¹ * log (1 + (a - 1) * (hellingerDiv a μ ν).toReal)
+    then (a - 1)⁻¹ * log ((ν Set.univ).toReal + (a - 1) * (hellingerDiv a μ ν).toReal)
```
Comment (RemyDegenne) [inline TestingLowerBounds/Renyi.lean:63]: Please comment on that in the docstring. This is not standard in the literature and deserves an explanation.

File: TestingLowerBounds/Renyi.lean [hunk 9]
```diff
@@ -316,4 +330,143 @@ def renyiMeasure (a : ℝ) (μ ν : Measure α) : Measure α :=
 
 end RenyiMeasure
 
+section Conditional
+
+variable {β γ : Type*} {mβ : MeasurableSpace β} {mγ : MeasurableSpace γ} {κ η : kernel α β}
+
+--TODO: what convention should we adopt for the names of the variables? we cannot use `a` for the element of `α`, so we cannot adopt the same convention as for kl, on the other hand using `x`for the element of `α` may be confusing and we may need `x` for other cases, such that an element of the product space, or some other mute variable. Shall we change the convention for the parameter then? in this case a possibilty would be `λ`. but it is problematic because of the lambda calculus notation, so could we call the parameter `l`? For now I leave it as `x` but I think we should change it at some point.
```
Comment (RemyDegenne) [inline TestingLowerBounds/Renyi.lean]: Calling a variable `x` is fine, even if the space is alpha.
```suggestion
```

File: TestingLowerBounds/Renyi.lean [hunk 10]
```diff
@@ -316,4 +330,143 @@ def renyiMeasure (a : ℝ) (μ ν : Measure α) : Measure α :=
...
+
+/--
+Rényi divergence between two kernels κ and η conditional to a measure μ.
+It is defined as `Rₐ(κ, η | μ) := Rₐ(μ ⊗ₘ κ, μ ⊗ₘ η)`.
+-/
```
Comment (RemyDegenne) [inline TestingLowerBounds/Renyi.lean]:
```suggestion
/-- Rényi divergence between two kernels κ and η conditional to a measure μ.
It is defined as `Rₐ(κ, η | μ) := Rₐ(μ ⊗ₘ κ, μ ⊗ₘ η)`. -/
```

File: TestingLowerBounds/Renyi.lean [hunk 11]
```diff
@@ -316,4 +330,143 @@ def renyiMeasure (a : ℝ) (μ ν : Measure α) : Measure α :=
...
+noncomputable
+def condRenyiDiv (a : ℝ) (κ η : kernel α β) (μ : Measure α) : EReal :=
+  renyiDiv a (μ ⊗ₘ κ) (μ ⊗ₘ η)
+
+--Maybe this can be stated in a nicer way, but I didn't find a way to do it. It's probably good enough to use `condRenyiDiv_of_lt_one`.
```
Comment (RemyDegenne) [inline TestingLowerBounds/Renyi.lean]: line length

File: TestingLowerBounds/Renyi.lean [hunk 12]
```diff
@@ -316,4 +330,143 @@ def renyiMeasure (a : ℝ) (μ ν : Measure α) : Measure α :=
...
+    condRenyiDiv a κ η μ = ⊤ := by
+  by_cases ha : a < 1
+  · have := integrable_hellingerFun_rnDeriv_of_lt_one ha_nonneg ha (μ := μ ⊗ₘ κ) (ν := μ ⊗ₘ η)
+    rw [integrable_f_rnDeriv_compProd_right_iff
+      (stronglyMeasurable_hellingerFun (by linarith)) (convexOn_hellingerFun (by linarith))] at this
+    exfalso
+    exact h_int this.2
+  · rw [condRenyiDiv_eq_top_iff_of_one_le (le_of_not_lt ha)]
+    right; left
+    exact h_int
```
Comment (RemyDegenne) [inline TestingLowerBounds/Renyi.lean]:
```suggestion
    exact Or.inr (Or.inl h_int)
```

File: TestingLowerBounds/Renyi.lean [hunk 13]
```diff
@@ -316,4 +330,143 @@ def renyiMeasure (a : ℝ) (μ ν : Measure α) : Measure α :=
...
+
+lemma condRenyiDiv_of_one_le_of_not_ac [CountableOrCountablyGenerated α β] (ha : 1 ≤ a)
+    [IsFiniteKernel κ] [IsFiniteKernel η] [IsFiniteMeasure μ] (h_ac : ¬ ∀ᵐ x ∂μ, κ x ≪ η x) :
+    condRenyiDiv a κ η μ = ⊤ := by
+  rw [condRenyiDiv_eq_top_iff_of_one_le ha]
+  right; right
+  exact h_ac
```
Comment (RemyDegenne) [inline TestingLowerBounds/Renyi.lean]:
```suggestion
  exact Or.inr (Or.inr h_ac)
```

File: blueprint/src/sections/renyi_divergence.tex [hunk 14]
```diff
@@ -9,33 +9,46 @@ \chapter{Rényi divergences}
   \begin{align*}
   R_\alpha(\mu, \nu) = \left\{
  \begin{array}{ll}
-  - \log(\nu\{x \mid \frac{d \mu}{d \nu}(x) > 0\}) & \text{for } \alpha = 0
-  \\
+  % - \log(\nu\{x \mid \frac{d \mu}{d \nu}(x) > 0\}) & \text{for } \alpha = 0 --make a lemma for this
+  % \\
```
Comment (RemyDegenne) [inline blueprint/src/sections/renyi_divergence.tex]: You wrote the lemma.
```suggestion
```

File: blueprint/src/sections/renyi_divergence.tex [hunk 15]
```diff
@@ -9,33 +9,46 @@ \chapter{Rényi divergences}
...
   \end{array}\right.
   \end{align*}
 \end{definition}
 
+\begin{lemma}
+  \label{lem:renyiDiv_zero}
+  \lean{ProbabilityTheory.renyiDiv_zero}
+  \leanok
+  \uses{def:Renyi}
+  For $\mu$ a sigma finite measure and $\nu$ a finite measure
```
Comment (RemyDegenne) [inline blueprint/src/sections/renyi_divergence.tex]:
```suggestion
  For $\mu$ a sigma-finite measure and $\nu$ a finite measure 
```

File: blueprint/src/sections/testing.tex [hunk 16]
```diff
@@ -195,7 +195,7 @@ \section{Change of measure}
 
 \begin{lemma}
   \label{lem:change_measure_variance_add}
-  \lean{ProbabilityTheory.one_sub_exp_le_add_measure_mul_exp_max_renyiDiv}
+  \lean{ProbabilityTheory.one_sub_exp_le_add_measure_mul_exp_max_renyiDiv} %TODO: this seems like a mistake, the lemma doesn't correspond to this statement. Moreover, the referenced lean lemma is already linked to the statement below and it's more similar to that, even if not exactly the same.
```
Comment (RemyDegenne) [inline blueprint/src/sections/testing.tex]: If you don't find a corresponding lemma in the code, please remove this ref, the leanok of the def and the leanok of the proof.

**Review by RemyDegenne — COMMENTED** [review]
Great!

File: blueprint/src/sections/testing.tex (hunk 16 above)
Comment (LorenzoLuccioli) [reply blueprint/src/sections/testing.tex]: OK, I don't see anything of that form in `RenyiChangeMeasure.lean` or in `ChangeMeasure.lean`.

Comment (RemyDegenne) [reply blueprint/src/sections/testing.tex]: Ok. It's probably the result of a too hasty copy and paste.

File: TestingLowerBounds/Renyi.lean (hunk 8 above)
Comment (LorenzoLuccioli) [reply TestingLowerBounds/Renyi.lean:63]: Is it ok to write in a less formal way in the dosctring, in general? Or should I stick with lean notation?
For example `(a - 1)⁻¹ * log (ν(α) + (a - 1) * Hₐ(μ, ν))` instead of `(a - 1)⁻¹ * log ((ν Set.univ).toReal + (a - 1) * (hellingerDiv a μ ν).toReal)`. It seems to make the docs more readable, but it doesn't stick completely with mathlib notation.

Comment (RemyDegenne) [reply TestingLowerBounds/Renyi.lean:63]: Yes that's fine.

**Comment by RemyDegenne** [comment]
The build failed.
`error: ././././TestingLowerBounds/Hellinger.lean:938:69: unknown identifier 'compProd_univ_toReal'
`

**Review by RemyDegenne — APPROVED** [review]
